data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2200,2439,[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([C:8]([F:9])([F:10])[F:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[CH:24]=[N+:25]([CH3:26])[CH-:27][C:28]([CH3:29])=[O:30]>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([C:8]([F:9])([F:10])[F:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[CH:27]([C:28]([CH3:29])=[O:30])[N:25]([CH3:26])[CH:24]2[C:22]([O:21][CH3:20])=[O:23],water,298.15,16.958313133449053,-44.2151103237804
38,45,[CH3:9][CH:10]=[O+:11][CH-:12][C:13]([CH3:14])=[O:15].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[CH:10]([CH3:9])[O:11][CH:12]3[C:13]([CH3:14])=[O:15],water,298.15,9.38134669899998,-73.41291624208282
1182,1285,[CH3:14][NH:15][C:16](=[O:17])[C-:18]([CH3:19])[O+:20]=[C:21]([CH3:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([CH3:19])[O:20][C:21]3([CH3:22])[C:23]([CH3:24])=[O:25],water,298.15,6.527634200418791,-66.77635716664858
4162,4765,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,16.932934064816347,-39.43667639994656
3295,3734,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[O+:14][N-:15][C:16]#[N:17]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]#[N:13])[O:14][N:15]1[C:16]#[N:17],water,298.15,11.496368002957537,-37.747674340054616
1202,1308,[CH3:13][C-:14]([NH+:15]=[C:16]([C:17]#[N:18])[C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:16]([C:17]#[N:18])([C:19]#[N:20])[NH:15][C:14]2([CH3:13])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,20.18107965290033,-12.493428058292634
2889,3210,[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][O:28][C:29](=[O:30])[C-:31]([C:32]([CH3:33])=[O:34])[N+:35]([CH3:36])=[C:37]([c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1)[c:44]1[cH:45][cH:46][cH:47][cH:48][cH:49]1>>[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:31]([C:29]([O:28][CH3:27])=[O:30])([C:32]([CH3:33])=[O:34])[N:35]([CH3:36])[C:37]2([c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1)[c:44]1[cH:45][cH:46][cH:47][cH:48][cH:49]1,water,298.15,50.191568050631645,1.3935701225163788
1939,2149,[CH3:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][C-:19]([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:19]([C:20]#[N:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:18][C:15]2([C:13]([CH3:12])=[O:14])[C:16]#[N:17],water,298.15,29.17353152325789,7.2683318894419955
3386,3846,[CH3:10][O:11][C:12](=[O:13])[N:14]=[N+:15]([CH3:16])[NH-:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]([CH3:16])[NH:17]1,water,298.15,33.432406688497764,-3.253554363063162
4626,5273,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[N-:21][C:22]([CH3:23])=[O:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]([CH3:17])=[O:18])[N:19]([CH3:20])[N:21]2[C:22]([CH3:23])=[O:24],water,298.15,35.57578804221197,-1.541279092471537
4537,5177,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:12]=[N:11]2,water,298.15,28.132504061071923,-4.075993603397364
24,27,[CH:1]1=[CH:2][CH:3]2[CH2:4][CH2:5][CH:6]1[CH2:7]2.[CH:8]#[N+:9][CH-:10][C:11](=[O:12])[O:13][CH3:14]>>[CH:1]12[CH:2]([CH:3]3[CH2:4][CH2:5][CH:6]1[CH2:7]3)[CH:10]([C:11](=[O:12])[O:13][CH3:14])[N:9]=[CH:8]2,water,298.15,12.68209899042414,-57.1572689798146
